US08017607B2
A mixture of rac-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid (0.5 g, 1.04 mmol), methyl 4-aminobenzoate (Aldrich) (0.3 g, 1.99 mmol), HATU (0.4 g, 1.05 mmol) and iPr2NEt (0.3 g, 2.33 mmol) in CH2Cl2 (30 mL) was stirred at room temperature for 20 h. The mixture was then diluted with CH2Cl2 and washed with water, brine. The organic phase was separated, filtered and dried over Na2SO4. The mixture was then concentrated and purified by chromatography (EtOAc:hexanes=1:5) to give rac-4-{2-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-benzoic acid methyl ester as a white solid (0.5 g, 81%).

reactant | rac-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid | 1.04 mmol, 0.5 g | ClC=1C(=C(C=CC1)[C@@H]1[C@@]([C@@H](N(C1)CC(=O)O)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)F | C24H24Cl2F2N2O2
reactant | methyl 4-aminobenzoate | 1.99 mmol, 0.3 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | HATU | 1.05 mmol, 0.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 2.33 mmol, 0.3 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | rac-4-{2-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-benzoic acid methyl ester | 0.5 g, 81% | COC(C1=CC=C(C=C1)NC(CN1[C@H]([C@]([C@H](C1)C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)=O)=O | C32H31Cl2F2N3O3
